US04978665
2-ethyl-4,5-dichloro-6-hydroxy-3(2H)pyridazinone
A mixture comprising 5.00 g of 3,6-dihydroxy-4,5-dichloropyridazine, 2.21 g of sodium hydroxide, 5.60 g of ethyl iodide, 40 ml of ethanol and water, was stirred at a temperature of from 60° to 70° C. for 4 hours. Most ethanol was distilled off under reduced pressure. Then, dilute hydrochrolic acid and chloroform were added to the residue, and the mixture was vigorously shaked. The chloroform layer was separated and washed with water, followed by drying over sodium sulfate. Then, the solvent was distilled off to obtain a light orange solid substance. The solid substance was treated with benzene to obtain 3.56 g of the above identified compound as colorless crystals.

reactant | 3,6-dihydroxy-4,5-dichloropyridazine | 5.00 g | OC=1N=NC(=C(C1Cl)Cl)O | C4H2Cl2N2O2
reactant | sodium hydroxide | 2.21 g | [OH-].[Na+]
reactant | ethyl iodide | 5.60 g | C(C)I | C2H5I
reactant | ethanol | 40 ml | C(C)O | C2H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-ethyl-4,5-dichloro-6-hydroxy-3(2H)pyridazinone | C(C)N1N=C(C(=C(C1=O)Cl)Cl)O | C6H6Cl2N2O2
